US07247734B2
Synthesis of 3-(2-Bromo-phenyl)-6-chloro-7-hydroxy-2-methyl-chromen-4-one
This compounds was synthesised in the same manner as described above. 2-(2-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone (2.0 g, 5.88 mmol), acetic anhydride (2.0 ml), potassium carbonate (2.5 g 18.1 mmol). The white precipitate formed was shown to contain the required compound and was taken directly onto the next stage.

reactant | 2-(2-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone | 5.88 mmol, 2.0 g | BrC1=C(C=CC=C1)CC(=O)C1=C(C=C(C(=C1)Cl)O)O | C14H10BrClO3
reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium carbonate | 18.1 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
product | 3-(2-Bromo-phenyl)-6-chloro-7-hydroxy-2-methyl-chromen-4-one | BrC1=C(C=CC=C1)C1=C(OC2=CC(=C(C=C2C1=O)Cl)O)C | C16H10BrClO3
